US07585886B2
A 60 ml portion of a methanol-THF (1:1) mixed solution of 2.09 g of methyl 4-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3,5-difluorobenzoate was mixed with 7.5 ml of 1 M sodium hydroxide aqueous solution at room temperature and stirred overnight at 80° C. The reaction solution was concentrated under a reduced pressure, 1 M hydrochloric acid was added to the thus obtained residue, and the precipitated solid was collected by filtration to obtain 2.02 g of 4-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3,5-difluorobenzoic acid.

reactant | methyl 4-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3,5-difluorobenzoate | 2.09 g | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C1=C(C=C(C(=O)OC)C=C1F)F | C36H38F2N2O4
reactant | sodium hydroxide | 1 M, 7.5 ml | [OH-].[Na+]
solvent | methanol THF | CO.C1CCOC1
product | 4-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3,5-difluorobenzoic acid | 2.02 g | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1F)F | C35H36F2N2O4
